US07399780B2
6-Chloro-N-methyl-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide
To a solution of 6-chloropyridine-3-sulfonylchloride (636 mg, 3 mmol; described in: Naegeli, C. et al. Helv. Chim. Actal. 1938, 21, 1746-1750) in methylene chloride (10 mL) was added methyl-(2-pyrrolidin-1-ylethyl)amine (384 mg, 3 mmol; described in: J. Amer. Chem. Soc. 1955, 77, 3632-3634) dissolved in methylene chloride (10 mL) dropwise. The reaction mixture was stirred over night at room temperature followed by the extraction with aqueous HCl (3%). The acidic water layer was alkalized with an aqueous saturated solution of NaHCO3 and extracted with methylene chloride. The organic phase was dried (Na2SO4) and evaporated in vacuo to give 0.75 gram (80% yield) of the title compound: MS (ES) m/z 304 (M++1).

reactant | 6-chloropyridine-3-sulfonylchloride | 3 mmol, 636 mg | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | methyl-(2-pyrrolidin-1-ylethyl)amine | 3 mmol, 384 mg | CNCCN1CCCC1 | C7H16N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-N-methyl-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide | 0.75 gram, 80% yield | ClC1=CC=C(C=N1)S(=O)(=O)N(CCN1CCCC1)C | C12H18ClN3O2S
